US07608633B2
C. 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbamide
455 mg (1.12 mmol) 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbonitrile are dissolved in 10 ml tert-butanol. Having added 1.10 g (22.4 mmol) pulverized, 88% potassium hydroxide, the batch is heated to 100° C. for 3 hours. After cooling the reaction solution, hydrolysis using 50 ml distilled water and neutralization with 1 N hydrochloric acid are carried out. The aqueous phase is extracted three times with ethyl acetate and the combined organic phases are washed once with water and then twice with saturated sodium chloride solution. Following drying on sodium sulfate, the solvent is removed on the rotary evaporator. The residue is purified on silica gel by means of column chromatography (flow agent: ethyl acetate), the product accruing as a solid.

reactant | 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbonitrile | 1.12 mmol, 455 mg | C(CCCCCC)OC1=CC=C(OCC(CN2C=CC3=CC(=CC=C23)C#N)O)C=C1 | C25H30N2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbamide | C(CCCCCC)OC1=CC=C(OCC(CN2C=CC3=CC(=CC=C23)C(=O)N)O)C=C1 | C25H32N2O4
